US09120756B2
6.9 Synthesis of 2-(4-(phenylcarbamoyl)phenyl)propanoic acid (Employed for the Synthesis of Example Compound No. 143)
Step f-g: To a stirred solution of step-e product (2.3 g, 10 mmol) in dichloromethane (23 ml), oxalyl chloride (2.08 g (1.44 ml), 16 mmol, 1.5 eq) followed by catalytic amount of dimethylformamide were added at room temperature. Reaction contents were stirred for 20 minutes at room temperature. Progress of the reaction was monitored by TLC (5% ethyl acetate-hexane, Rf˜0.7). As the reaction not moved completely, reaction contents were heated to 40° C. and stirred for 1 hr at the same temperature. Again TLC was checked and confirmed that the starting material was disappeared. Dichloromethane was distilled off completely under reduced pressure. In another round-bottom flask, TEA (triethylamine) (3.2 g (2.5 ml), 25 mmol, 2.5 eq) was added to a solution of aniline (0.83 g, 9 mmol) in dichloromethane (10 ml) and stirred the contents for 15 minutes at 0° C. Then the above prepared acid chloride was taken in dichloromethane (13 ml) and added dropwise at 0° C. and the overall reaction mixture was allowed to stir for 1 hr at 0° C. Progress of the reaction was monitored by TLC (5% ethyl acetate-hexane, Rf˜0.3). On completion of the reaction, water (10 ml) was added and the layers formed were separated out. Organic layer was dried over sodium sulfate and concentrated under reduced pressure to yield the required product as an off white solid (3 g, 96%).

reactant | oxalyl chloride | 16 mmol, 1.44 ml, 2.08 g, 1.5 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | TEA | 25 mmol, 2.5 ml, 3.2 g, 2.5 eq | C(C)N(CC)CC | C6H15N
reactant | aniline | 9 mmol, 0.83 g | NC1=CC=CC=C1 | C6H7N
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 23 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 13 ml | ClCCl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 2-(4-(phenylcarbamoyl)phenyl)propanoic acid | C1(=CC=CC=C1)NC(=O)C1=CC=C(C=C1)C(C(=O)O)C | C16H15NO3
